US05990139
Synthesis of 1-(4-chlorophenyl)-3,5-dimethyl-4-hydroxymethyl-1H-pyrazole (Compound No. 24)
A reaction was conducted in a similar manner to Referential Example 9 except for the use of 1-(4-chlorophenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid in lieu of ethyl 1-(4-chlorophenyl)-5-methyl-1H-pyrazol-4-carboxylate, whereby the title compound was obtained in a stoichiometric yield.

reactant | 1-(4-chlorophenyl)-3,5-dimethyl-1H-pyrazole-4-carboxylic acid | ClC1=CC=C(C=C1)N1N=C(C(=C1C)C(=O)O)C | C12H11ClN2O2
reactant | ethyl 1-(4-chlorophenyl)-5-methyl-1H-pyrazol-4-carboxylate | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)OCC | C13H13ClN2O2
product | 1-(4-chlorophenyl)-3,5-dimethyl-4-hydroxymethyl-1H-pyrazole | ClC1=CC=C(C=C1)N1N=C(C(=C1C)CO)C | C12H13ClN2O
